US08383644B2
2,5-Dimethyl-oxazole-4-carboxylic acid (6 mg) was taken in 1 mL of anhydrous DCM and EDCI (9 mg), HOBT (7 mg) and (S)-2-{[(3S,8S)-3-(3-cyclohexylmethoxy-phenyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester dihydrochloride (25 mg) and stirred for 5 minutes. The reaction mixture was cooled to 0° C. and DIEA (25 mg) was added and reaction was stirred at room temperature for 2 hours. After the reaction was complete, it was loaded onto a silica gel column (1:3 EtOAc/hexanes to 4% MeOH in 1:1 EtOAc/hexanes) to get pure (S)-2-{[(3S,8S)-3-(3-cyclohexylmethoxy-phenyl)-7-(2,5-dimethyl-oxazole-4-carbonyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester (22 mg). This product was hydrolyzed according to General Procedure B to the title compound (17 mg). LCMS (m/z): 800.

reactant | 2,5-Dimethyl-oxazole-4-carboxylic acid | 6 mg | CC=1OC(=C(N1)C(=O)O)C | C6H7NO3
reactant | HOBT | 7 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (S)-2-{[(3S,8S)-3-(3-cyclohexylmethoxy-phenyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester dihydrochloride | 25 mg | Cl.Cl.COC([C@H](CC1=CC=C(C=C1)C1=C(C(=NC=C1)C)C)NC(=O)[C@H]1NCC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC(=CC=C3)OCC3CCCCC3)=O
reactant | DIEA | 25 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | EDCI | 9 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | MeOH | CO | CH4O
product | (S)-2-{[(3S,8S)-3-(3-cyclohexylmethoxy-phenyl)-7-(2,5-dimethyl-oxazole-4-carbonyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester | 22 mg | COC([C@H](CC1=CC=C(C=C1)C1=C(C(=NC=C1)C)C)NC(=O)[C@H]1N(CC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC(=CC=C3)OCC3CCCCC3)C(=O)C=3N=C(OC3C)C)=O | C48H52N4O8
